US04607039
Sodium hydride (0.48 g. of a 50% w/w dispersion in mineral oil) was added to a solution of 2-acetylacetanilide (1.8 g.) in dry dimethylformamide (15 ml.) under an atmosphere of argon. The mixture was stirred at 35° until the evolution of hydrogen had ceased. 2-Bromopropane (1.12 ml.) was added, and the mixture was heated at 55°-60° for 110 hr. The mixture was cooled and then poured into water (100 ml.). The resulting solution was adjusted to pH 2 with 3N-hydrochloric acid and extracted with ethyl acetate (3×100 ml.). The ethyl acetate extract was dried (Na2SO4) and the ethyl acetate was evaporated in vacuo. The residual oil was chromatographed on silica gel (Kieselgel 60, 180 g.) using 20% v/v ethyl acetate in petroleum ether (b.p. 60°-80°) as eluant. The relevant fraction was evaporated in vacuo, and the residue was crystallised from cyclohexane to give 2-acetyl-2-isopropylacetanilide, m.p. 135°-7° .

reactant | Sodium hydride | [H-].[Na+]
reactant | 2-acetylacetanilide | 1.8 g | C(C)(=O)CC(=O)NC1=CC=CC=C1 | C10H11NO2
reactant | hydrogen | [H][H] | H2
reactant | 2-Bromopropane | 1.12 ml | BrC(C)C | C3H7Br
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 2-acetyl-2-isopropylacetanilide | C(C)(=O)C(C(=O)NC1=CC=CC=C1)C(C)C | C13H17NO2
